US06956050B2
STEP 2. 2-{4-[4-phenyl-2-(trifluoromethyl)-1H-imidazol-1-yl]phenyl}ethyl methanesulfonate
To a stirred solution of 2-{4-[4-phenyl-2-(trifluoromethyl)-1H-imidazol-1-yl]phenyl}ethanol (450 mg, 1.35 mmol) and triethylamine (377 μL, 2.70 mmol) in dichloromethane (13 mL) was added methanesulfonyl chloride (126 μL, 1.62 mmol) at ambient temperature. After 1 h, the reaction mixture was partitioned between dichloromethane and water. The aqueous phase was extracted with dichloromethane (3×10 mL) and the combined organic phase was dried (MgSO4) and concentrated under reduced pressure to give the title compound as a brown oil (quant.). MS (EI) m/z 410 [M]+.

reactant | 2-{4-[4-phenyl-2-(trifluoromethyl)-1H-imidazol-1-yl]phenyl}ethanol | 1.35 mmol, 450 mg | C1(=CC=CC=C1)C=1N=C(N(C1)C1=CC=C(C=C1)CCO)C(F)(F)F | C18H15F3N2O
reactant | triethylamine | 2.70 mmol, 377 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.62 mmol, 126 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
product | 2-{4-[4-phenyl-2-(trifluoromethyl)-1H-imidazol-1-yl]phenyl}ethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=CC=C1)C(F)(F)F | C19H17F3N2O3S
